US07691882B2
4-(5-Chloro-furan-2-ylmethyl)-benzaldehyde
To a mixture of (4-(5-chloro-furan-2-ylmethyl)-phenyl)-methanol (650 mg, 2.9 mmol) described in Manufacturing Example 62-1-3 and dichloromethane (20 mL) was added manganese dioxide (6.5 g, 75 mmol) at room temperature, which was stirred overnight at room temperature. The reaction mixture was filtered through a Celite pad. The filtrate was evaporated under a reduced pressure to obtain the title compound (530 mg, 83%).

reactant | (4-(5-chloro-furan-2-ylmethyl)-phenyl)-methanol | 2.9 mmol, 650 mg | ClC1=CC=C(O1)CC1=CC=C(C=C1)CO | C12H11ClO2
catalyst | manganese dioxide | 75 mmol, 6.5 g | [O-2].[O-2].[Mn+4]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(5-Chloro-furan-2-ylmethyl)-benzaldehyde | 530 mg, 83% | ClC1=CC=C(O1)CC1=CC=C(C=O)C=C1 | C12H9ClO2
